US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-3-fluoro-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide
Conducting the operations similar to those of Example 1 using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 3-fluoro-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid, the title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 3-fluoro-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid | FC=1C=C(C=CC1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C14H8F4O2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-3-fluoro-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide | C1(CC1)C=1N=C2N(C=C(C=C2)NC(=O)C2=C(C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)F)C1C | C25H19F4N3O
